US04371536
2 g of ethyl β-carbolin-3-carboxylate and 5 g of β-phenethylamine are heated for 2 hours at 196° C. The cooled, partly crystallized mixture is treated with hot water which is decanted. The residue is recrystallized from xylene to form β-carbolin-3-carboxylic acid (2-phenylethyl)amide (2.5 g) of a melting point of 297°-298° C.

reactant | ethyl β-carbolin-3-carboxylate | 2 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)OCC | C14H12N2O2
reactant | β-phenethylamine | 5 g | C1=CC=C(C=C1)CCN | C8H11N
solvent | water | O | H2O
product | β-carbolin-3-carboxylic acid (2-phenylethyl)amide | 2.5 g | C1(=CC=CC=C1)CCNC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1 | C20H17N3O
